data/oMe_Silver.jsonl
{"reaction_id": "NR-145_1-C_2-C(F)(F)F_3-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","name": "Michaelis-Arbuzov Reaction","level": "medium","reactants_smiles": ["[CH](Br)(C)(C(F)(F)F)","P(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"products_smiles": ["P(=O)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)[CH](C)(C(F)(F)F)"],"conditions": "","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[P+](OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)[CH](C)(C(F)(F)F).[Br-]","rationale": "The lone pair on phosphorus attacks the electrophilic carbon bearing bromine, favored by the polarizable P center and the good leaving group ability of bromide, forming a phosphonium salt intermediate."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "P(=O)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)[CH](C)(C(F)(F)F)","rationale": "Intramolecular rearrangement occurs as an alkyl group migrates from oxygen to phosphorus, driven by the thermodynamically favorable formation of the strong P=O bond and facilitated by bromide acting as a leaving group."}],"description": "In the Michaelis–Arbuzov reaction, trialkyl phosphite attacks an alkyl halide via nucleophilic substitution, forming a phosphonium salt. This intermediate undergoes rearrangement with halide displacement to yield the phosphonate ester, driven by strong P=O bond formation and good leaving group ability of halide."}
{"reaction_id": "NR-202_1-c1cncnc1_2-c1ccc(C#N)cc1_3-c1ccc(C)cc1","level": "medium","name": "Neber Rearrangement","reactants_smiles": ["C(c1cncnc1)(c1ccc(C#N)cc1)C(=NOS(=O)(=O)c1ccc(C)cc1)c1ccc(C)cc1"],"products_smiles": ["c1ccc(C)cc1C(=O)C(c1cncnc1)(c1ccc(C#N)cc1)N"],"conditions": "Base, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C-](c1cncnc1)(c1ccc(C#N)cc1)C(=NOS(=O)(=O)c1ccc(C)cc1)c1ccc(C)cc1","step_weight": 0,"rationale": "The base abstracts the relatively acidic alpha-proton due to resonance stabilization of the resulting carbanion by the adjacent oxime group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(C)cc1C2=NC(c1cncnc1)(c1ccc(C#N)cc1)2","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the oxime nitrogen intramolecularly, forming a strained azirine ring and displacing the tosylate, a good leaving group stabilized by resonance."},{"step": 3,"type": "rearrangement","subtype": "rearrangement","intermediate_smiles": "C(c1ccc(C)cc1)2(C(c1cncnc1)(c1ccc(C#N)cc1)[N-]2)O","step_weight": 0,"rationale": "Water adds to the electrophilic azirine carbon, driven by ring strain relief and polarization of the C–N bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C)cc1)2(C(c1cncnc1)(c1ccc(C#N)cc1)[NH]2)[O-]","step_weight": 0,"rationale": "Proton transfer from the coordinated water to nitrogen stabilizes the intermediate, favored in aqueous medium."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(C)cc1C(C(c1cncnc1)(c1ccc(C#N)cc1)[NH-])=O","step_weight": 0,"rationale": "Elimination of hydroxide from the intermediate occurs to form the carbonyl, driven by the stability of the ketone and the good leaving ability of hydroxide under these conditions."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(C)cc1C(=O)C(c1cncnc1)(c1ccc(C#N)cc1)N","step_weight": 0,"rationale": "Final protonation of the nitrogen yields the neutral alpha-amino ketone, favored under aqueous conditions for product stability."}],"description": "Under basic aqueous conditions, the alpha-proton adjacent to the oxime tosylate is deprotonated, enabling intramolecular cyclization to an azirine via tosylate departure. Subsequent hydrolytic ring opening, proton transfers, and rearrangement yield the thermodynamically stable alpha-amino ketone."}
